US09023840B2
4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(1-methylpiperidin-4-yl)ethyl]benzamide
This compound was prepared as TFA salt by using procedures analogous to those described for the synthesis of Example 19, Step 3 started from 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoic acid and 1-(1-methylpiperidin-4-yl)ethanamine (ChemBridge: Cat. #4019769). LCMS (M+H)+: m/z=524.3.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoic acid | C(#N)CC1(CN(C1)C1=CC=C(C(=O)O)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H31N7O3Si
reactant | 1-(1-methylpiperidin-4-yl)ethanamine | CN1CCC(CC1)C(C)N | C8H18N2
product | 4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(1-methylpiperidin-4-yl)ethyl]benzamide | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C2CCN(CC2)C)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C29H33N9O
